US07109219B2
N,N-dimethylformamide (30 ml), pyridine (0.52 ml, 6.4 mmol) and triethylamine (1.35 ml, 9.69 mmol) were added to N1-(3-methylbutyl)-5-((2-amino-4-pyridyl)oxy)-1H-1-indolecarboxamide (1.45 g, 4.29 mmol); phenyl chloroformate (0.81 ml, 6.4 mmol) was added at 0° C. while stirring; and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was partitioned between ethyl acetate and water; and the organic layer was concentrated and subjected to silica gel column chromatography to yield a mixture (2.0 g) of phenyl N-(4-(1-((3-methylbutyl)amino)carbonyl-1H-5-indolyl)oxy-2-pyridyl)carbamate and phenyl N-(4-(1-((3-methylbutyl)amino)carbonyl-1H-5-indolyl)oxy-2-pyridyl)-N-(phenoxycarbonyl)carbamate. A portion of 0.4 g of the mixture was dissolved in N,N-dimethylformamide (4 ml); 4-tetrahydro-1H-1-pyrrolylpiperidine (0.43 g, 2.8 mmol) was added thereto; and the reaction mixture was stirred for 2 hours. The reaction mixture was partitioned between ethyl acetate and water; the organic layer was concentrated; and the residue was purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate:methanol=10:1) to yield the title compound as white crystals (275 mg, 0.53 mmol).

reactant | pyridine | 6.4 mmol, 0.52 ml | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 9.69 mmol, 1.35 ml | C(C)N(CC)CC | C6H15N
reactant | N1-(3-methylbutyl)-5-((2-amino-4-pyridyl)oxy)-1H-1-indolecarboxamide | 4.29 mmol, 1.45 g | CC(CCNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N)C | C19H22N4O2
reactant | phenyl chloroformate | 6.4 mmol, 0.81 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | phenyl N-(4-(1-((3-methylbutyl)amino)carbonyl-1H-5-indolyl)oxy-2-pyridyl)carbamate | 2.0 g | CC(CCNC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(OC1=CC=CC=C1)=O)C | C26H26N4O4
